US09388176B2
3-(2-amino-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)-N-(3-(trifluoromethyl)phenyl)benzamide
A mixture of 3-(2-amino-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)benzoic acid (162 mg, 0.60 mmol), triethylamine (0.335 mL, 2.4 mmol), and HBTU (250 mg, 0.66 mmol) in 4.0 mL DMF was briefly warmed to approx. 40° C. to dissolve solids. After 3 minutes 3-(trifluoromethyl)aniline (0.149 mL, 1.2 mmol) was added and the reaction stirred at 50° C. for 3 hours, at rt for 16 hours, then an additional 1 hour at 50° C. The reaction mixture was partitioned between EtOAc and aqueous NaHCO3 solution, the EtOAc layer washed with brine, dried with anhydrous Na2SO4 and rotary evaporated. The resulting oily solid was chromatographed eluting with CHCl3, warm EtOAc, CHCl3:EtOAc (1:1), then 5% MeOH in CHCl3:EtOAc (1:1) giving a pale yellow solid. This solid was recrystallized from EtOAc giving a white solid (100 mg, 40%). 1H NMR (DMSO-d6) δ: 10.46 (s, 1H), 8.25 (s, 1H), 8.13 (s, 1H), 8.05 (d, J=8.8 Hz, 1H), 7.60 (t, J=7.9 Hz, 1H), 7.53 (s, 1H), 7.34-7.48 (m, 3H), 7.22-7.27 (m, 1H), 6.41 (s, 2H), 4.30 (s, 2H), 3.66 (t, J=6.0 Hz, 2H), 2.77 (t, J=5.9 Hz, 2H).

reactant | 3-(2-amino-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)benzoic acid | 0.60 mmol, 162 mg | NC=1N=CC2=C(N1)CCN(C2)C=2C=C(C(=O)O)C=CC2 | C14H14N4O2
reactant | triethylamine | 2.4 mmol, 0.335 mL | C(C)N(CC)CC | C6H15N
reactant | HBTU | 0.66 mmol, 250 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 3-(trifluoromethyl)aniline | 1.2 mmol, 0.149 mL | FC(C=1C=C(N)C=CC1)(F)F | C7H6F3N
solvent | DMF | 4.0 mL | CN(C)C=O | C3H7NO
product | 3-(2-amino-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)-N-(3-(trifluoromethyl)phenyl)benzamide | NC=1N=CC2=C(N1)CCN(C2)C=2C=C(C(=O)NC1=CC(=CC=C1)C(F)(F)F)C=CC2 | C21H18F3N5O
